US05506267
4-[6,7-bis(palmitoyloxy)-4-thiaoctanoylarninomethyl]benzoyl-glutamic acid
A solution of 4-[6,7-bis(palmitoyloxy)-4-thiaoctanoylaminomethyl]benzoyl-glutamic acid di-t-butyl ester as obtained in Example 75 (574 mg) in methylene chloride (4 ml)-trifiuoroacetic acid (5 ml) was stirred at room temperature for 4 hours, after which the solvent was distilled off under reduced pressure. The residue was recrystallized from methanolwater to yield the title compound (505 mg, yield 99%) as a colorless powder.

reactant | 4-[6,7-bis(palmitoyloxy)-4-thiaoctanoylaminomethyl]benzoyl-glutamic acid di-t-butyl ester | C(C)(C)(C)OC([C@@H](NC(C1=CC=C(C=C1)CNC(CCSCC(C(C)OC(CCCCCCCCCCCCCCC)=O)OC(CCCCCCCCCCCCCCC)=O)=O)=O)CCC(=O)OC(C)(C)C)=O | C60H104N2O10S
reactant | trifiuoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
product | 4-[6,7-bis(palmitoyloxy)-4-thiaoctanoylarninomethyl]benzoyl-glutamic acid | 505 mg, yield 99% | C(CCCCCCCCCCCCCCC)(=O)OC(CSCCC(=O)NCC1=CC=C(C(=O)N[C@@H](CCC(=O)O)C(=O)O)C=C1)C(C)OC(CCCCCCCCCCCCCCC)=O | C52H88N2O10S
